US07855212B2
To a suspension of NaH (1.3 g, of NaH in a 60% dispersion oil, 32.5 mmol, 4 eq) in anhydrous DMF (10 mL), was added dropwise at room temperature a solution of 2-pyridylacetonitrile (960 mg, 8.12 mmol, 1 eq) in anhydrous DMF (10 mL). The reaction mixture was stirred at room temperature for 1 hour. A solution of 2,4-dichloro-5-methyl-pyrimidine (1.32 g, 8.12 mmo, 1 eq), dissolved in anhydrous DMF (5 ml), was added dropwise at room temperature. The reaction mixture was stirred at room temperature for 14 hours. The mixture is hydrolysed with water (1 mL) and acidified with 1.6 mL of 10M HCl. The solvents were evaporated under vacuum. The residue was extracted with ethyl acetate. The organic layer was dried over MgSO4 and evaporated to dryness. The residue was purified by column chromatography with 50:50 (EtOAc:cHex). The fractions evaporated to give a yellow solid which was dried under vacuum at 40 degrees. The yellow crystalline product 4-pyrimidineacetonitrile, 2-chloro-5-methyl-alpha-2(1H)-pyridinylidene was isolated. (1.7 g, 86%).

reactant | NaH | [H-].[Na+]
reactant | 2-pyridylacetonitrile | 8.12 mmol, 960 mg, 1 eq | N1=C(C=CC=C1)CC#N | C7H6N2
reactant | 2,4-dichloro-5-methyl-pyrimidine | 1.32 g, 1 eq | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | HCl | 10M, 1.6 mL | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 1 mL | O | H2O
product | 4-pyrimidineacetonitrile | N1=CN=C(C=C1)CC#N | C6H5N3
